US07074800B1
Using a procedure analogous to that described for Example 10, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (130 mg, 0.4 mmol), (prepared as described for the starting material in Example 10), was reacted with 4-methyl-7-hydroxyquinoline (80 mg, 0.5 mol), (Chem. Ber. 1967, 100, 2077), to give 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(4-methylquinolin-7-yloxy)quinazoline (160 mg, 90%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.4 mmol, 130 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 4-methyl-7-hydroxyquinoline | 0.5 mol, 80 mg | CC1=CC=NC2=CC(=CC=C12)O | C10H9NO
product | 6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)-4-(4-methylquinolin-7-yloxy)quinazoline | 160 mg, 90% | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)OC1=CC=C2C(=CC=NC2=C1)C | C26H28N4O3
